US05635527
Sodium hydroxide (5.7 g, 0.14 mol) was dissolved in water (6 ml) and 1,4-cyclohexanediol (cis/trans=6/4) (15.0 g, 0.13 mol) was added, which was followed by stirring at room temperature for 30 minutes. Then, tetrabutylammonium bromide (20.8 g, 0.065 mol) and t-butyl bromoacetate (24.5 ml, 0.13 mol) were added, and the mixture was stirred at room temperature for one hour. The reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column Chromatography (n-hexane/ethyl acetate=5/1-2/1) to give 2.13 g of t-butyl (4-hydroxycyclohexyl)acetate as a transparent oil (7%).

reactant | Sodium hydroxide | 0.14 mol, 5.7 g | [OH-].[Na+]
reactant | 1,4-cyclohexanediol | 0.13 mol, 15.0 g | C1(CCC(CC1)O)O | C6H12O2
reactant | t-butyl bromoacetate | 0.13 mol, 24.5 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | water | 6 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.065 mol, 20.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | t-butyl (4-hydroxycyclohexyl)acetate | 2.13 g, 7% | OC1CCC(CC1)CC(=O)OC(C)(C)C | C12H22O3
